US06949579B2
9.4 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 700 mg of N-[5-bromo-6,7-difluoro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 30 cm3 of tetrahydrofuran, and the mixture is refluxed for 18 hours; after cooling, 100 cm3 of ethyl acetate and 75 cm3 of saturated sodium hydrogen carbonate solution are added and the organic phase is then washed successively with 75 cm3 of saturated sodium hydrogen carbonate solution and with 75 cm3 of saturated sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2 kPa; 50° C.) to give 850 mg of crude product, which is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3 cm), eluting with a cyclohexane/ethyl acetate mixture (80/20 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); the residue is taken up in 8 cm3 of diisopropyl ether, filtered off, washed with 3 cm3 of diisopropyl ether, dried under reduced pressure (90 Pa; 45° C.) to give 200 mg of N-(5-bromo-6,7-difluoro-1H-indazol-3-yl)butanamide in the form of white crystals melting at 220° C.

reactant | tetrabutylammonium fluoride | 9.4 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[5-bromo-6,7-difluoro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 700 mg | BrC=1C=C2C(=NN(C2=C(C1F)F)COCC[Si](C)(C)C)NC(CCC)=O | C17H24BrF2N3O2Si
reactant | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | 75 cm3 | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 cm3 | O1CCCC1 | C4H8O
product | N-(5-bromo-6,7-difluoro-1H-indazol-3-yl)butanamide | 200 mg | BrC=1C=C2C(=NNC2=C(C1F)F)NC(CCC)=O | C11H10BrF2N3O
